US07834049B2
767 mg (3.0 mmol) of 4-sulfamoylbenzenesulfonyl chloride was reacted with 264 mg (2.0 mmol) of 7-amino-1H-indole and treated, to give 445 mg of N-(1H-indole-7-yl)-4-sulfanoylbenzenesulfonamide. The resulting compound was chlorinated using N-chlorosuccinimide in dichloromethane, to give 349 mg of the title compound.

reactant | 4-sulfamoylbenzenesulfonyl chloride | 3.0 mmol, 767 mg | S(N)(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C6H6ClNO4S2
reactant | 7-amino-1H-indole | 2.0 mmol, 264 mg | NC=1C=CC=C2C=CNC12 | C8H8N2
product | N-(1H-indole-7-yl)-4-sulfanoylbenzenesulfonamide | 445 mg | N1C=CC2=CC=CC(=C12)NS(=O)(=O)C1=CC=C(C=C1)S=O | C14H12N2O3S2
